US05843942
2-Benzyloxy-5-bromobenzaldehyde (5 g) was dissolved in anhydrous diethyl ether (20 mL) and THF (20 mL) and stirred at ambient temperature under argon while a solution of methyl magnesium bromide in ether (7.4 mL, 3M solution in ether) was added dropwise over 5 minutes. A white precipitate formed. After 30 minutes the mixture was poured onto a mixture of ice and water (300 mL). The aqueous mixture was extracted with ethyl acetate (3×250 mL), the organic extracts were washed with brine (100 mL) and dried (MgSO4). After removal of the solvent the residual pale yellow oil was purified by MPLC (eluting with dichloromethane on silica) to give 1-(2-benzyloxy-5-bromophenyl)-ethanol, (5.19 g, mp 76.7° C.).

reactant | 2-Benzyloxy-5-bromobenzaldehyde | 5 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)Br | C14H11BrO2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | methyl magnesium bromide | C[Mg]Br
reactant | water | 300 mL | O | H2O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ether | 3M, 7.4 mL | CCOCC | C4H10O
product | 1-(2-benzyloxy-5-bromophenyl)-ethanol | 5.19 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C(C)O | C15H15BrO2
